US05286869
(E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate:
2.97 g (10 mM) of 3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl 3-aminocrotonate and 2.49 g (10 mM) of methyl 2-(3-nitrobenzylidene)acetoacetate were dissolved in 50 ml of toluene and then the solution was refluxed for eight hours. After cooling, the crystals were filtered off and then recrystallized from methanol whereby the captioned compound was obtained. The yield was 4.01 g (76%).

reactant | 3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl 3-aminocrotonate | 10 mM, 2.97 g | N\C(=C/C(=O)OCC=CC1=CC=C(C=C1)CC=1NC=CN1)\C | C17H19N3O2
reactant | methyl 2-(3-nitrobenzylidene)acetoacetate | 10 mM, 2.49 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C(=O)C)C=CC1 | C12H11NO5
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC\C=C\C1=CC=C(C=C1)CC=1NC=CN1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C29H28N4O6
